US04623662
A solution of 21.2 g of N-(n-butyl)-2-chlorobenzamide in 100 ml of tetrahydrofuran was added with cooling to 200 ml of 1M borane in tetrahydrofuran and the mixture was stirred under reflux for 18 hours, allowed to cool, and treated with 6N hydrochloric acid. The organic solvent was evaporated, and the residue was partitioned between ether and aqueous sodium hydroxide solution. The ether layer was separated, dried, and evaporated. The residue was distilled to yield N-(n-butyl)-2-chlorobenzylamine as a colorless liquid, b.p. 65°-75° C. at 60μ.

reactant | N-(n-butyl)-2-chlorobenzamide | 21.2 g | C(CCC)NC(C1=C(C=CC=C1)Cl)=O | C11H14ClNO
reactant | borane | 1M, 200 ml | B | BH3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(n-butyl)-2-chlorobenzylamine | C(CCC)NCC1=C(C=CC=C1)Cl | C11H16ClN
